Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / prochlorperazine / Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Upper Endoscopy, EUS

attach
 
Pertinent Results:
DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur
RESP: easy WOB, CTAB
GI: soft, ND, non-tender to deep palpation in RUQ and 
epigastrium
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

NOTABLE LABS:
___ 06:00AM BLOOD WBC-5.6 RBC-3.44* Hgb-9.5* Hct-30.2* 
MCV-88 MCH-27.6 MCHC-31.5* RDW-14.5 RDWSD-46.6* Plt ___
___ 06:00AM BLOOD Glucose-95 UreaN-7 Creat-0.8 Na-142 K-3.9 
Cl-107 HCO3-25 AnGap-10
___ 06:00AM BLOOD ALT-27 AST-26 AlkPhos-110* TotBili-0.2
___ 09:50PM BLOOD Lipase-8
___ 10:03PM BLOOD Lactate-0.8

IMAGING:

EUS ___
Normal visualized esophagus, stomach and duodenum.  Dilated CBD 
w/o CBD stones or sludge.

MRCP ___
IMPRESSION:
1. Mild bilateral intrahepatic biliary dilation and dilated 
common bile duct which tapers normally to the ampulla, which can 
be seen with ampullary stenosis. No visualized mass, 
choledocholithiasis, or imaging evidence of cholangitis.
2. Mild-to-moderate hepatic steatosis.
3. Marked fatty infiltration of the pancreas.

CT A/P ___
CONCLUSION: Dilated extra hepatic common bile
duct to the level of the ampulla, which empties into a medial
duodenal diverticulum. No evidence for cholelithiasis or
choledocholithiasis, pancreatic mass or intrahepatic ductal
dilatation. Findings likely reflect ampullary stenosis.
Pancreatic atrophy. Other findings as detailed.

RUQUS ___
CONCLUSION: Common duct dilatation to 1.0-1.1 cm. No 
intrahepatic
dilatation. No evidence for cholelithiasis, cholecystitis or
choledocholithiasis. Hepatic steatosis without enlargement.

 
Brief Hospital Course:
SUMMARY:
___ yo F PMHx multiple sclerosis, hypertension, GERD presenting 
with fevers and RUQ abdominal pain, found to have sepsis and 
dilated extrahepatic CBD.  MRCP and EUS with dilated CBD but no 
stones or sludge seen.  Most likely explanation is passed 
gallstone.

___ HOSPITAL COURSE:
# Sepsis
Febrile, tachy, with mildly elevated WBC count and LFTs at OSH. 
Although her transaminases and bilirubin were normal, her 
symptoms and other laboratory changes were suggestive of 
cholangitis. Outside imaging revealed a dilated common bile duct 
to the level of the ampulla suggestive of ampullary stenosis, 
but no cholelithiasis or choledocholithiasis. CT A/P without 
evidence of acute infection.  MRCP confirmed ductal dilation, 
also suggestive of ampullary stenosis.  She underwent EUS which 
showed CBD dilation without stones or sludge.  While the 
etiology of the patient's symptoms and laboratory findings 
cannot be confirmed, we suspect a passed gallstone.  Blood 
cultures negative.  She was prescribed a 7d course of 
antibiotics.  

CHRONIC/STABLE PROBLEMS:
# Hypertension:
Lisinopril was held in the setting of sepsis.  Consider 
restarting at outpatient follow-up.  Continued home metoprolol.

# GERD:
Continued omeprazole

# Multiple sclerosis:
Continued home morphine sulfate ___

# Anxiety:
Continued home clonazepam

# Anemia: Unknown baseline, no evidence of active bleeding.

> 30 minutes spent in discharge planning and counseling 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. Omeprazole 20 mg PO BID 
3. Morphine Sulfate ___ 30 mg PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth q8 hours Disp #*3 
Tablet Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *ondansetron 4 mg 1 tablet(s) by mouth q8 hours PRN Disp #*60 
Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*6 Tablet Refills:*0 
6.  ClonazePAM 0.5 mg PO BID  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Morphine Sulfate ___ 30 mg PO BID  
9.  Omeprazole 20 mg PO BID  
10. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you are seen by your primary 
care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain 
Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with abdominal pain.  You were found to 
have a fever, and an mild elevation in your liver function 
tests.  You were started on antibiotics for a possible infection 
in the gallbladder.  You underwent an MRI of the abdomen and an 
upper endoscopy with GI.  These tests showed dilation within the 
bile ducts, but no evidence of ongoing infection or gallstones.  
The most likely explanation is that you passed a gallstone.  

Please take antibiotics for one additional day (through 
___.

While you were in the hospital, lisinopril (blood pressure 
medication) was held.  Please monitor your blood pressures and 
discuss restarting this medication with your PCP.

Follow-up with your PCP within the week for a check-in.

It was a pleasure taking care of you at ___.
-- Your medical team
 
Followup Instructions:
___